US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and thiophene-3-boronic acid (19.2 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-thiophen-3-yl-thiazole-5-carboxylic acid (30.1 mg, 78%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.74 (br.s., 1 H); 8.84 (s, 1 H); 8.55 (dd, 1 H); 7.91 (dd, 1 H); 7.86 (s, 1 H); 7.66 (dd, 1 H); 7.40 (s, 1 H); 3.891 (s, 3 H); 3.85 (s, 3 H)═. MS m/z 388 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | thiophene-3-boronic acid | 0.15 mmol, 19.2 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-thiophen-3-yl-thiazole-5-carboxylic acid | 30.1 mg, 78% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CSC=C2)C(=O)O)C=C1OC | C17H13N3O4S2
